US07279580B2
2-(8-Fluoroimidazo[1,2-α]pyridin-7-yl)propan-2-ol was coupled to 3′-bromo-4,4′-difluorobiphenyl-2-carbonitrile (prepared in the same way as in Example 2) as described in Example 6 to give 4,4′-difluoro-3′-[8-fluoro-7-(1-hydroxy-1-methylethyl)imidazo[1,2-α]pyridin-3-yl]biphenyl-2-carbonitrile (trifluoroacetate salt) as an off-white solid (23 mg, 6%); m/z (ES+) 408 [MH+].

reactant | 2-(8-Fluoroimidazo[1,2-α]pyridin-7-yl)propan-2-ol | FC=1C=2N(C=CC1C(C)(C)O)C=CN2 | C10H11FN2O
reactant | 3′-bromo-4,4′-difluorobiphenyl-2-carbonitrile | BrC=1C=C(C=CC1F)C=1C(=CC(=CC1)F)C#N | C13H6BrF2N
product | 4,4′-difluoro-3′-[8-fluoro-7-(1-hydroxy-1-methylethyl)imidazo[1,2-α]pyridin-3-yl]biphenyl-2-carbonitrile | 23 mg, 6% | FC=1C=C(C(=CC1)C1=CC(=C(C=C1)F)C1=CN=C2N1C=CC(=C2F)C(C)(C)O)C#N | C23H16F3N3O
